US04477464
A mixture of 67.8 g of N-acetyl-L-cysteine and 100.8 g of sodium bicarbonate in 300 ml of water is added to 55.4 ml of o-fluoronitrobenzene in 1 l of ethanol. The reaction is heated to reflux for 3 hr with mechanical stirring and allowed to cool to room temperature. After removing the solids by filtration, the solution is concentrated to one fourth of the original volume and diluted with 1 l of water. The aqueous suspension is washed with 200 ml of ether and acidified to pH 1 with 12N aqueous hydrochloric acid. The resulting yellow precipitate is collected by filtration and dried in vacuo at 70° C. over phosphoruos pentoxide to afford S-(o-nitrophenyl)-N-acetyl-L-cysteine; m.p. 175°-176° C.; [α]D =+87.8° (c=1.15, absolute ethanol).

reactant | N-acetyl-L-cysteine | 67.8 g | C(C)(=O)N[C@@H](CS)C(=O)O | C5H9NO3S
reactant | sodium bicarbonate | 100.8 g | C([O-])(O)=O.[Na+]
reactant | o-fluoronitrobenzene | 55.4 ml | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
solvent | water | 300 ml | O | H2O
solvent | ethanol | 1 l | C(C)O | C2H6O
product | S-(o-nitrophenyl)-N-acetyl-L-cysteine | [N+](=O)([O-])C1=C(C=CC=C1)SC[C@H](NC(C)=O)C(=O)O | C11H12N2O5S
